US07271197B2
ii) 3-(Hydroxymethyl)-N,N-bis{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide
Sodium hydride (60% oil dispersion, 0.315 g) was added to 3-hydroxymethylbenzenesulfonamide (0.67 g) with stirring in DMF (20 ml) under nitrogen at 20°. After 15 min, 2-(trimethylsilyl)ethoxymethyl chloride (1.27 ml) was added and stirring was continued for 1.5 h. pH 6.4 Phosphate buffer and ethyl acetate were added. The aqueous layer was extracted twice with ethyl acetate and the combined organic layers were washed twice with brine, dried (MgSO4) and evaporated to an oil. This oil in dichloromethane was loaded onto a column of silica gel (75 g) set up in 10% ethyl acetate in 40-60 petroleum ether. The column was run with this, then 20%, 30% and 50% ethyl acetate in 40-60 petroleum ether to give the title compound (0.74 g) LCMS RT=4.00 min.

reactant | Sodium hydride | 0.315 g | [H-].[Na+]
reactant | 3-hydroxymethylbenzenesulfonamide | 0.67 g | OCC=1C=C(C=CC1)S(=O)(=O)N | C7H9NO3S
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 1.27 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | Phosphate | pH 6.4 | P(=O)([O-])([O-])[O-]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(Hydroxymethyl)-N,N-bis{[2-(trimethylsilyl)ethoxy]methyl}benzenesulfonamide | 0.74 g | OCC=1C=C(C=CC1)S(=O)(=O)N(COCC[Si](C)(C)C)COCC[Si](C)(C)C | C19H37NO5SSi2
